US06706663B2
Preparation of 3-[3-(4-Isopropyl-2-oxazolin-2-yl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
To a solution of N-[1-(chloromethyl)-2-methylpropyl]-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxamide(1.25 g, 2.63 mmol) in anhydrous tetrahydrofuran is added sodium hydride (60% oil dispersion, 0.116 g, 2.90 mmol). The resultant mixture is stirred 1.5 hour at room temperature, quenched with saturated ammonium chloride, diluted with diethyl ether, washed with saturated ammonium chloride and brine, and dried over anhydrous magnesium sulfate. Concentration in vacuo affords a yellow syrup, which is combined with material from a previous run and chromatographed on silica gel to afford the title compound as a white crystalline solid (mp 100-105° C.) which is identified by NMR spectral analysis.

reactant | N-[1-(chloromethyl)-2-methylpropyl]-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxamide | 2.63 mmol, 1.25 g | ClCC(C(C)C)NC(=O)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C19H18ClF3N4O3S
reactant | sodium hydride | 2.90 mmol, 0.116 g | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[3-(4-Isopropyl-2-oxazolin-2-yl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | C(C)(C)C1N=C(OC1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C19H17F3N4O3S
